US08536169B2
6-(1H-Indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine
6-(1H-Indol-4-yl)-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole (714 mg, 1.97 mmol) was dissolved in ethylacetate (100 ml) and the compound was hydrogenated using the H-cube™ (available from THALESNano) using 10% Pd/C catalyst at 30° C. and under 30 bar pressure of hydrogen. Solvent was removed in vacuo. The title compound was isolated as an orange/brown solid (629 mg) which was used in subsequent reactions without further purification.

reactant | 6-(1H-Indol-4-yl)-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | 1.97 mmol, 714 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)[N+](=O)[O-] | C20H18N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 6-(1H-Indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C20H20N4O
